US07037910B2
8,9-Bis(4-chlorophenyl)-3-(4-fluorophenyl)-4H-pyridazino[6,1-c][1,2,4]triazin-4-one
The title compound was prepared using the method described in Example 1E, reacting 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine with 2-(4-fluorophenyl)-2-oxoacetic acid to give 8,9-bis(4-chlorophenyl)-3-(4-fluorophenyl)-4H -pyridazino[6,1-c][1,2,4]triazin-4-one. HPLC retention time=3.84 min; MS observed=463 (M+H); 1H NMR (CDCl3, 500 MHz) δ 8.76 (s, 1H), 8.58–8.53 (m, 2H), 7.39–7.34 (m, 4H), 7.31–7.25 (m, 2H), 7.22–7.13 (m, 4H).

reactant | 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine | ClC1=CC=C(C=C1)C1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C16H12Cl2N4
reactant | 2-(4-fluorophenyl)-2-oxoacetic acid | FC1=CC=C(C=C1)C(C(=O)O)=O | C8H5FO3
product | 8,9-bis(4-chlorophenyl)-3-(4-fluorophenyl)-4H -pyridazino[6,1-c][1,2,4]triazin-4-one | ClC1=CC=C(C=C1)C=1C=NN2C(=NN=C(C2=O)C2=CC=C(C=C2)F)C1C1=CC=C(C=C1)Cl | C24H13Cl2FN4O
